US07432260B2
N-{3-[4-(4-Methyl-2-methylamino-thiazol-5-yl)-pyrimidin-2-ylamino]-benzyl}-methanesulfonamide [83].
By treatment of (3-aminomethyl-phenyl)-[4-(4-methyl-2-methylamino-thiazol-5-yl)-pyrimidin-2-yl]-amine with methane-sulfonyl chloride. Yellow solid. Anal. RP-HPLC: tR=12.8 min (0-60% MeCN, purity>95%). 1H-NMR (CD3OD) δ: 2.53 (s, 3H, CH3), 2.88 (s, 3H, CH3), 2.98 (s, 3H, CH3), 4.28 (s, 2H, CH2), 6.94 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 7.02 (d, 1H, J=7.5 Hz, Ph-H), 7.29 (t, 1H, J=8.0 Hz, Ph-H), 7.52 (d, 1H, J=8.0 Hz, Ph-H), 7.90 (s, 1H, Ph-H), 7.98 (s, 1H, NH), 8.28 (d, 1H, J=5.5 Hz, pyrimidinyl-H).

reactant | (3-aminomethyl-phenyl)-[4-(4-methyl-2-methylamino-thiazol-5-yl)-pyrimidin-2-yl]-amine | NCC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=C(N=C(S1)NC)C | C16H18N6S
reactant | methane-sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | MeCN | CC#N | C2H3N
product | N-{3-[4-(4-Methyl-2-methylamino-thiazol-5-yl)-pyrimidin-2-ylamino]-benzyl}-methanesulfonamide | CC=1N=C(SC1C1=NC(=NC=C1)NC=1C=C(CNS(=O)(=O)C)C=CC1)NC | C17H20N6O2S2
